US09107916B2
A. 2-[5-[(4-chloro-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.36 (3H, s), 5.18 (2H, s), 5.77 (1H, d, J=2.0 Hz), 7.18-7.22 (2H, m), 7.34 (1H, d, J=8.0 Hz), 7.39 (1H, dd, J=1.2 Hz, J=5.2 Hz), 7.58 (1H, d, J=2.0 Hz), 8.00 (1H, s), 8.67 (1H, d, J=5.2 Hz). [M+H] Calc'd for C17H13ClN4O, 325. Found, 325.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-methylphenyl)methanol | ClC1=CC(=C(C=C1)CO)C | C8H9ClO
product | 2-[5-[(4-chloro-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)C | C17H13ClN4O
